US05688795
A solution of 2-{3-[4-(2-aminophenyl)piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide (398 mg, 1.01 mmol), prepared as in Example 36, in 10 mL of pyridine was cooled to 0° C. and methanesulfonyl chloride (0.08 mL, 1.03 mmol) was added slowly. The mixture was stirred at 0° C. for 2 hours and then evaporated to dryness. The residue was partioned between saturated sodium bicarbonate and ethyl acetate. The organic layer was separated, dried (K2CO3) and evaporated to dryness. The residue was purified on silica gel by column chromatography eluting with 5% methanol/methylene chloride to give 2-{3-[4-(2-methylsulfonylaminophenyl)-piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide hydrochloride, m.p. 207°-209° C.; Anal.: Calcd. for C24H35N5O3S.(HCl)2.(H2 O)0.5 : C, 51.89; H, 6.90; N, 12.61%; Found: C, 51.9; H, 6.74.; N, 12.56%.

reactant | 2-{3-[4-(2-aminophenyl)piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide | 1.01 mmol, 398 mg | NC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=C(C=C1)C | C23H33N5O
reactant | methanesulfonyl chloride | 1.03 mmol, 0.08 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-{3-[4-(2-methylsulfonylaminophenyl)-piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide hydrochloride | Cl.CS(=O)(=O)NC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=C(C=C1)C | InChI=1S/C24H35N5O3S.ClH/c1-19-10-11-21(20(18-19)24(30)27(2)3)25-12-7-13-28-14-16-29(17-15-28)23-9-6-5-8-22(23)26-33(4,31)32;/h5-6,8-11,18,25-26H,7,12-17H2,1-4H3;1H
